US04618677
The procedure described in Example 1(b) was followed, using 9.8 g of thiourea, 29.0 g of 1-(1-phenylethyl)-4-(3-chloropropyl)piperazine dihydrochloride, 8.3 g of triethylamine and 250 ml of reagent ethanol. The hydrolysis was effected with 6.0 g of sodium hydroxide in 40 ml of water. Work-up, as above, gave 14.5 g (51% of theory) of 3-[4-(1-phenylethyl)piperazin-1-yl]propanethiol dihydrochloride as a white crystalline solid, M.p. 252°-255° C.

reactant | thiourea | 9.8 g | NC(=S)N | CH4N2S
reactant | 1-(1-phenylethyl)-4-(3-chloropropyl)piperazine dihydrochloride | 29.0 g | Cl.Cl.C1(=CC=CC=C1)C(C)N1CCN(CC1)CCCCl
reactant | triethylamine | 8.3 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 6.0 g | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(1-phenylethyl)piperazin-1-yl]propanethiol dihydrochloride | 14.5 g, 51% | Cl.Cl.C1(=CC=CC=C1)C(C)N1CCN(CC1)CCCS | InChI=1S/C15H24N2S.2ClH/c1-14(15-6-3-2-4-7-15)17-11-9-16(10-12-17)8-5-13-18;;/h2-4,6-7,14,18H,5,8-13H2,1H3;2*1H
